US04073899
Following essentially the same procedure but substituting 17β-hydroxy-7α-methyl-estr-5-en-3-one or 7α-methyl-estr-5-en-3,17-dione for the 17β-hydroxy-7α-methyl-estr-5-en-3-one acetate above, also results in the preparation of the desired 7α-methyl-estr-5-ene-3β,17β-diol.

reactant | 17β-hydroxy-7α-methyl-estr-5-en-3-one | O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1[C@@H](C=C3CC(CC[C@@H]3[C@H]1CC2)=O)C | C19H28O2
reactant | 7α-methyl-estr-5-en-3,17-dione | C[C@H]1[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@H]2CCC(CC2=C1)=O)=O | C19H26O2
reactant | 17β-hydroxy-7α-methyl-estr-5-en-3-one acetate | C(C)(=O)O.O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1[C@@H](C=C3CC(CC[C@@H]3[C@H]1CC2)=O)C
product | 7α-methyl-estr-5-ene-3β,17β-diol | C[C@H]1[C@H]2[C@@H]3CC[C@@H]([C@@]3(C)CC[C@@H]2[C@H]2CC[C@@H](CC2=C1)O)O | C19H30O2
